US06960598B2
2-Fluoro-5-(7-trifluoromethyl[1,8]naphthyridin-4-yl)phenol (50.0 mg, 0.16 mmol) was alkylated with 2-bromopyridine (18.6 μL, 30.8 mg, 0.20 mmol) as described in Example 47, except that heating at 150° C. overnight was required, affording 5-[4-fluoro-3-(pyridin-2-yloxy)phenyl]-2-trifluoromethyl[1,8]naphthyridine (15.1 mg, 24%). δH (400 MHz, CDCl3) 7.04-7.09 (2H, m), 7.30-7.35 (1H, m), 7.38-7.43 (2H, m), 7.60 (1H, d, J 4.7), 7.73-7.79 (1H, m), 7.83 (1H, d, J 8.6), 8.17 (1H, dd, J 5.1 and 2.0), 8.64 (1H, d, J 8.6), 9.27 (1H, d, J 4.3). m/z (ES+) 386 [MH]+.

reactant | 2-Fluoro-5-(7-trifluoromethyl[1,8]naphthyridin-4-yl)phenol | 0.16 mmol, 50.0 mg | FC1=C(C=C(C=C1)C1=CC=NC2=NC(=CC=C12)C(F)(F)F)O | C15H8F4N2O
reactant | 2-bromopyridine | 0.20 mmol, 18.6 μL, 30.8 mg | BrC1=NC=CC=C1 | C5H4BrN
product | 5-[4-fluoro-3-(pyridin-2-yloxy)phenyl]-2-trifluoromethyl[1,8]naphthyridine | 15.1 mg, 24% | FC1=C(C=C(C=C1)C1=C2C=CC(=NC2=NC=C1)C(F)(F)F)OC1=NC=CC=C1 | C20H11F4N3O
